US07737143B2
1-(6-[[1-(3-fluorophenyl)ethyl]amino]pyrazin-2-yl)-1H-benzimidazole-6-carbonitrile
In an analogous procedure to that reported in Example 4, 1-(6-{[1-(3-fluorophenyl)ethyl]amino}pyrazin-2-yl)-1H-benzimidazole-6-carboxamide (83 mg 0.21 mmol) was reacted with phosphorus oxychloride to afford the product as a pale yellow solid (60 mg, 80%).

reactant | 1-(6-{[1-(3-fluorophenyl)ethyl]amino}pyrazin-2-yl)-1H-benzimidazole-6-carboxamide | 0.21 mmol, 83 mg | FC=1C=C(C=CC1)C(C)NC1=CN=CC(=N1)N1C=NC2=C1C=C(C=C2)C(=O)N | C20H17FN6O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(6-[[1-(3-fluorophenyl)ethyl]amino]pyrazin-2-yl)-1H-benzimidazole-6-carbonitrile | 60 mg, 80% | FC=1C=C(C=CC1)C(C)NC1=CN=CC(=N1)N1C=NC2=C1C=C(C=C2)C#N | C20H15FN6
